US07790747B2
To a solution of 1-{1-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-piperidin-4-yl}-3-methoxy-1-thiophen-3-ylmethyl-urea (0.69 g, 1.56 mmol) in EtOH (15 ml) was added hydrazine hydrate (0.49 ml, 15.6 mmol) and the reaction was stirred at rt for 16 h. The reaction mixture was diluted with Et2O (40 ml) to give a white precipitate. The solid was removed via suction filtration and the filtrate was concentrated in vacuo to give a white foam. Purification by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 83:15:2, v/v/v) gave 1-[1-(3-amino-propyl)-piperidin-4-yl]-3-methoxy-1-thiophen-3-ylmethyl-urea as a white foam (0.280 g, 57%). 1H NMR (CDCl3) δ 1.60-1.72 (m, 6H), 2.00 (t, 2H, J=9.0 Hz), 2.07 (br s, 3H), 2.39 (t, 2H, J=6.0 Hz), 2.75 (t, 2H, J=6.0 Hz), 2.98 (d, 2H, J=12.0 Hz), 3.65 (s, 3H), 4.25 (m, 1H), 4.29 (s, 2H), 6.95 (d, 1H, J=3.0 Hz), 7.10 (s, 2H), 7.34 (m, 1H).

reactant | 1-{1-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-piperidin-4-yl}-3-methoxy-1-thiophen-3-ylmethyl-urea | 1.56 mmol, 0.69 g | O=C1N(C(C2=CC=CC=C12)=O)CCCN1CCC(CC1)N(C(=O)NOC)CC1=CSC=C1 | C23H28N4O4S
reactant | hydrazine hydrate | 15.6 mmol, 0.49 ml | O.NN
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | Et2O | 40 ml | CCOCC | C4H10O
product | 1-[1-(3-amino-propyl)-piperidin-4-yl]-3-methoxy-1-thiophen-3-ylmethyl-urea | 0.280 g, 57% | NCCCN1CCC(CC1)N(C(=O)NOC)CC1=CSC=C1 | C15H26N4O2S
